US07229992B2
A mixture of N-acetyl-3-methoxy-4-methyl-D-phenylalanine (2.55 g) in a mixture of 6N hydrochloric acid (25.5 ml) with toluene (18 ml) was stirred under reflux for 4 hours. After cooling to room temperature, the aqueous layer was separated and the organic layer was washed twice with water (10 ml). The aqueous layer and the washings were combined and the solvent was evaporated under reduced pressure. The produced crystals were collected by filtration and washed with ice-water to give 3-methoxy-4-methyl-D-phenylalanine hydrochloride (1.35 g) in the form of colorless crystals. The solvent was evaporated from the filtrate under reduced pressure to give crude 3-methoxy-4-methyl-D-phenylalanine hydrochloride (0.6 g).

reactant | N-acetyl-3-methoxy-4-methyl-D-phenylalanine | 2.55 g | C(C)(=O)N[C@H](CC1=CC(=C(C=C1)C)OC)C(=O)O | C13H17NO4
reactant | toluene | 18 ml | C1(=CC=CC=C1)C | C7H8
reactant | hydrochloric acid | 6N, 25.5 ml | Cl | ClH
product | 3-methoxy-4-methyl-D-phenylalanine hydrochloride | 1.35 g | Cl.COC=1C=C(C[C@@H](N)C(=O)O)C=CC1C | InChI=1S/C11H15NO3.ClH/c1-7-3-4-8(6-10(7)15-2)5-9(12)11(13)14;/h3-4,6,9H,5,12H2,1-2H3,(H,13,14);1H/t9-;/m1./s1
